US05264619
5-[(1,1-Dimethylethyl)dimethylsiloxy]pent-1-ylmagnesium bromide
A mixture of Mg turnings (0.6 g, 24 mmole), [(5-bromo-1-pentyl)oxy]-(1,1-dimethylethyl)dimethylsilane (0.5 mL), and MeMgBr (0.2 mL, 3 M) in dry OEt2 (5 mL) was stirred and heated to reflux for 5 minutes under an inert atmosphere. A solution of [(5-bromo-10-pentyl)oxy](1,1-dimethyl-ethyl)dimethylsilane (5.62 g, 20 mmole) and MeMgBr (0.2 mL, 3 M) in dry OEt2 (20 mL) was added dropwise at a rate to maintain a gentle, unassisted reflux. After addition was complete, the reaction was heated at reflux for 45 minutes. The solution of Grignard reagent was then cooled and used immediately in the next reaction.

reactant | [(5-bromo-1-pentyl)oxy]-(1,1-dimethylethyl)dimethylsilane | 0.5 mL | BrCCCCCO[Si](C)(C)C(C)(C)C | C11H25BrOSi
reactant | MeMgBr | 3 M, 0.2 mL | C[Mg+].[Br-]
reactant | MeMgBr | 3 M, 0.2 mL | C[Mg+].[Br-]
solvent | OEt2 | 5 mL | O(CC)CC | C4H10O
solvent | OEt2 | 20 mL | O(CC)CC | C4H10O
product | 5-[(1,1-Dimethylethyl)dimethylsiloxy]pent-1-ylmagnesium bromide | CC(C)(C)[Si](OCCCCC[Mg]Br)(C)C | InChI=1S/C11H25OSi.BrH.Mg/c1-7-8-9-10-12-13(5,6)11(2,3)4;;/h1,7-10H2,2-6H3;1H;/q;;+1/p-1
